US08084649B2
Preparation of 9-(2,6-diethyl-4-methylphenyl)-10-prop-2-ynyloxy-3-oxaspiro[5.5]undec-9-en-8-one (Compound Number P31 in Table T2)
A solution of propargyl bromide (0.043 g, 0.36 mmol) in acetone (2 ml) is added dropwise to a mixture of 9-(2,6-diethyl-4-methylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione (0.10 g, 0.3 mmol) and potassium carbonate (0.05 g, 0.36 mmol) in acetone (3 ml) and the reaction is refluxed overnight. The solvent is evaporated in vacuo, and the residue is taken up in ethyl acetate and washed with 2 N aqueous sodium hydroxide solution. The organic phase is concentrated in vacuo, and the residue is further purified by column chromatography on silica gel to give the desired compound as a colourless gum.

reactant | propargyl bromide | 0.36 mmol, 0.043 g | C(C#C)Br | C3H3Br
reactant | 9-(2,6-diethyl-4-methylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione | 0.3 mmol, 0.10 g | C(C)C1=C(C(=CC(=C1)C)CC)C1C(CC2(CCOCC2)CC1=O)=O | C21H28O3
reactant | potassium carbonate | 0.36 mmol, 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 9-(2,6-diethyl-4-methylphenyl)-10-prop-2-ynyloxy-3-oxaspiro[5.5]undec-9-en-8-one | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(CC2(CCOCC2)CC1OCC#C)=O | C24H30O3
